US08871753B2
Step E: N-{3-[2-(2-Aminopyridin-4-yl)ethyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride
To a mixture of tert-butyl [4-(2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-2-yl]carbamate (128 mg, 0.28 mmol) in 1,4-dioxane (0.64 mL) was added 4 M of hydrogen chloride in 1,4-dioxane (3.0 mL). The resultant reaction mixture was stirred at rt for 2 hours. The reaction mixture was concentrated under vacuum to give the desired product (120 mg, 100%) as a very hygroscopic off-white powder. LCMS for C17H16Cl2N5 (M+H)+: m/z=360.0

reactant | tert-butyl [4-(2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-2-yl]carbamate | 0.28 mmol, 128 mg | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CCC1=CC(=NC=C1)NC(OC(C)(C)C)=O)Cl | C22H23Cl2N5O2
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 0.64 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
product | N-{3-[2-(2-Aminopyridin-4-yl)ethyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride | 120 mg, 100% | Cl.Cl.NC1=NC=CC(=C1)CCC=1C=C(C=CC1)NC1=NC(=NC=C1Cl)Cl | InChI=1S/C17H15Cl2N5.2ClH/c18-14-10-22-17(19)24-16(14)23-13-3-1-2-11(8-13)4-5-12-6-7-21-15(20)9-12;;/h1-3,6-10H,4-5H2,(H2,20,21)(H,22,23,24);2*1H
